US04859692
4-[5-(Cyclopentyloxycarbonyl)amino-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid
A stirred solution of methyl 4-[5-(cyclopentyloxycarbonyl)amino-1-methylindol-3-ylmethyl]-3-methoxybenzoate (0.25 g.) in methanol (5 ml.) and tetrahydrofuran (4 ml.), under an atmosphere of nitrogen, was treated with a solution of lithium hydroxide monohydrate (0.12 g.) in water (2 ml.). The mixture was stirred for 20 hours and then concentrated to remove tetrahydrofuran. The resulting aqueous solution was acidified with 1M hydrochloric acid (20 ml.). The white precipitate which formed was separated by filtration, washed with a little water, and recrystallized from a mixture of toluene and hexane to give the title compound (0.212 g., 88%) as an offwhite powder; m.p. 157°-158° C.

reactant | methyl 4-[5-(cyclopentyloxycarbonyl)amino-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 0.25 g | C1(CCCC1)OC(=O)NC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H28N2O5
reactant | lithium hydroxide monohydrate | 0.12 g | O.[OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-[5-(Cyclopentyloxycarbonyl)amino-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid | 0.212 g, 88% | C1(CCCC1)OC(=O)NC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC | C24H26N2O5
